US08623859B2
N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-{[4-(octahydro-2H-pyrrolo[3,4-c]pyridin-2-ylcarbonyl)-1,3-oxazol-2-yl]methyl}benzenesulfonamide
The title compound was prepared according to general procedure AN using tert-butyl 2-{[2-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazol-4-yl]carbonyl}octahydro-5H-pyrrolo[3,4-c]pyridine-5-carboxylate (245 mg, 0.42 mmol), TFA (1 mL) and DCM (3 mL). Following the completion of the reaction the solvent was removed in vacuo, the residue redissolved in DCM (2 mL), absorbed on to 2 g SCX cartridge and washed with DCM (5 mL) and MeOH (5 mL). The title compound was eluted with 7 N NH3 in MeOH (10 mL) and concentrated in vacuo.

reactant | tert-butyl 2-{[2-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazol-4-yl]carbonyl}octahydro-5H-pyrrolo[3,4-c]pyridine-5-carboxylate | 0.42 mmol, 245 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)N1CC2CN(CCC2C1)C(=O)OC(C)(C)C | C29H40N4O7S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-{[4-(octahydro-2H-pyrrolo[3,4-c]pyridin-2-ylcarbonyl)-1,3-oxazol-2-yl]methyl}benzenesulfonamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)N1CC2CNCCC2C1 | C24H32N4O5S
